US07262212B2
Tert-butyl 4-hydroxypiperidine-1-carboxylate (2.22 g, 10.0 mmol), 4-hydroxybenzotrifluoride (1.21 g, 7.45 mmol), tri-n-butylphosphine (2.26 g, 11.2 mmol) and 1,1′-(azodicarbonyl)dipiperidine (2.82 g, 11.2 mmol) were dissolved in benzene (20 ml), and the mixture was stirred at room temperature for 2 days. To which water was added, and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and thereafter filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=5/1) ro afford tert-butyl 4-(4-trifluoromethylphenoxy)piperidine-1-carboxylate (1.13 g, yield 44%) as a colorless oil.

reactant | Tert-butyl 4-hydroxypiperidine-1-carboxylate | 10.0 mmol, 2.22 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 4-hydroxybenzotrifluoride | 7.45 mmol, 1.21 g | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | tri-n-butylphosphine | 11.2 mmol, 2.26 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 11.2 mmol, 2.82 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | tert-butyl 4-(4-trifluoromethylphenoxy)piperidine-1-carboxylate | 1.13 g, yield 44% | FC(C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C17H22F3NO3
